US07572805B2
(3aR,9bS)-6-Chloro-4,8-diethyl-2,3,3a,4-tetrahydro-1H-pyrrolo[3,4-c]isoquinolin-5(9bH)-one hydrochloride
Following the procedures described in Example 24, Parts A and B, except that iodoethane was used instead of iodomethane, (3aR,9bS)-tert-butyl 6-chloro-5-oxo-8-ethyl-3,3a,4,5-tetrahydro-1H-pyrrolo[3,4-c]isoquinoline-2(9bH)-carboxylate, the first eluting compound from the OD column separation of N-BOC intermediate enantiomers in Example 29 and 30 (the first eluting compound gave Example 29), was converted to the title compound of Example 41 as an off-white solid. 1H NMR (CD3OD): δ 7.28 (s, 1H), 7.22 (s, 1H), 4.43-4.37 (m, 1H), 3.88-3.81 (m, 1H), 3.73-3.68 (m, 1H), 3.69 (q, 2H), 3.63 (dd, 1H, J=7.8, 12.3 Hz), 3.45-3.38 (m, 1H), 3.26-3.20 (m, 1H), 2.61 (q, 2H, J=7.5 Hz), 1.17 (t, 3H, J=7.7 Hz), 1.14 (t, 3H, J=7.5 Hz). LRMS (ESI): 279.2/281.2 (M+H)+.

reactant | iodoethane | ICC | C2H5I
reactant | (3aR,9bS)-tert-butyl 6-chloro-5-oxo-8-ethyl-3,3a,4,5-tetrahydro-1H-pyrrolo[3,4-c]isoquinoline-2(9bH)-carboxylate | ClC1=CC(=CC=2[C@@H]3[C@@H](NC(C12)=O)CN(C3)C(=O)OC(C)(C)C)CC | C18H23ClN2O3
product | (3aR,9bS)-6-Chloro-4,8-diethyl-2,3,3a,4-tetrahydro-1H-pyrrolo[3,4-c]isoquinolin-5(9bH)-one hydrochloride | Cl.ClC1=CC(=CC=2[C@@H]3[C@@H](N(C(C12)=O)CC)CNC3)CC | InChI=1S/C15H19ClN2O.ClH/c1-3-9-5-10-11-7-17-8-13(11)18(4-2)15(19)14(10)12(16)6-9;/h5-6,11,13,17H,3-4,7-8H2,1-2H3;1H/t11-,13+;/m1./s1
